US07034039B2
Tert-butyl[6-(2-amino-2-oxoethoxy)-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.14 g, 0.3 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml). The solution was stirred at room temperature for 2 h. The reaction was concentrated under reduced pressure to give 2-{[3-(aminomethyl)-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-6-isoquinolinyl]oxy}acetamide hydrochloride (0.11 g, 91.7%) as an amorphous solid.

reactant | Tert-butyl[6-(2-amino-2-oxoethoxy)-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.3 mmol, 0.14 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C=1SC=CC1)OCC(=O)N)=O)CC(C)C)=O | C25H31N3O5S
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 2-{[3-(aminomethyl)-2-isobutyl-1-oxo-4-(2-thienyl)-1,2-dihydro-6-isoquinolinyl]oxy}acetamide hydrochloride | 0.11 g, 91.7% | Cl.NCC=1N(C(C2=CC=C(C=C2C1C=1SC=CC1)OCC(=O)N)=O)CC(C)C | InChI=1S/C20H23N3O3S.ClH/c1-12(2)10-23-16(9-21)19(17-4-3-7-27-17)15-8-13(26-11-18(22)24)5-6-14(15)20(23)25;/h3-8,12H,9-11,21H2,1-2H3,(H2,22,24);1H
